US07595397B2
This compound could be made in the following manner: 500 mg of 2-phenylpiperazine would be dissolved in dichloromethane and cooled to 0° C. A solution of 0.5 equiv. of 4-bromobenzoyl chloride in dichloromethane would be added dropwise over 1 h at 0° C. The reaction would be stirred at 0° C. for 0.5 h, then allowed to warm to room temperature and stirred for a further 3 h until complete conversion. The reaction mixture would be diluted with dichloromethane, washed with 1M aqueous sodium hydroxide solution and brine, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue would be purified by column chromatography to afford (4-bromo-phenyl)-(3-phenyl-piperazin-1-yl)-methanone.

reactant | 2-phenylpiperazine | 500 mg | C1(=CC=CC=C1)C1NCCNC1 | C10H14N2
reactant | 4-bromobenzoyl chloride | 0.5 equiv. | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-bromo-phenyl)-(3-phenyl-piperazin-1-yl)-methanone | BrC1=CC=C(C=C1)C(=O)N1CC(NCC1)C1=CC=CC=C1 | C17H17BrN2O
